US04260619
To the solution of 159 g of 2-(2-isopropylaminopropyl)-5-pyridinol dihydrochloride in 1,000 ml of water, 163 g of sodium bicarbonate are added and the suspension evaporated. The residue is suspended in 453 ml of anhydrous ethanol at 60°, the suspension is filtered, the residue washed 3 times with 150 ml of anhydrous ethanol each and the combined filtrates are evaporated, to yield the 2-(2-isopropylaminopropyl)-5-pyridinol melting at 135°-138°.

reactant | 2-(2-isopropylaminopropyl)-5-pyridinol dihydrochloride | 159 g | Cl.Cl.C(C)(C)NC(CC1=NC=C(C=C1)O)C
reactant | sodium bicarbonate | 163 g | C([O-])(O)=O.[Na+]
solvent | water | 1,000 ml | O | H2O
product | 2-(2-isopropylaminopropyl)-5-pyridinol | C(C)(C)NC(CC1=NC=C(C=C1)O)C | C11H18N2O
